* c:\users\aditya\esim-workspace\sn74f521\sn74f521.cir

.include SN74F521_ic.sub
x1 oe_bar p0 q0 p1 q1 p2 q2 p3 q3 gnd p4 q4 p5 q5 p6 q6 p7 q7 out net-_v2-pad1_ SN74F521_ic
v1  p0 gnd pulse(0 0 0 1m 1m 0 10)
v2 net-_v2-pad1_ gnd  dc 5
r2  out gnd 1000k
r1  gnd oe_bar 1000k
* u2  out plot_v1
* u1  oe_bar plot_v1
v3  q0 gnd pulse(0 5 0 1m 1m 5 10)
v4  p1 gnd pulse(0 5 0 1m 1m 5 10)
v5  q1 gnd pulse(0 5 0 1m 1m 5 10)
v6  p2 gnd pulse(0 5 0 1m 1m 5 10)
v7  q2 gnd pulse(0 5 0 1m 1m 5 10)
v8  p3 gnd pulse(0 5 0 1m 1m 5 10)
v9  q3 gnd pulse(0 5 0 1m 1m 5 10)
v10  p4 gnd pulse(0 5 0 1m 1m 5 10)
v11  q4 gnd pulse(0 5 0 1m 1m 5 10)
v12  p5 gnd pulse(0 5 0 1m 1m 5 10)
v13  q5 gnd pulse(0 5 0 1m 1m 5 10)
v14  p6 gnd pulse(0 5 0 1m 1m 5 10)
v15  q6 gnd pulse(0 5 0 1m 1m 5 10)
v16  p7 gnd pulse(0 5 0 1m 1m 5 10)
v17  q7 gnd pulse(0 5 0 1m 1m 5 10)
* u18  q7 plot_v1
* u17  p7 plot_v1
* u16  q6 plot_v1
* u15  p6 plot_v1
* u14  q5 plot_v1
* u13  p5 plot_v1
* u12  q4 plot_v1
* u11  p4 plot_v1
* u10  q3 plot_v1
* u9  p3 plot_v1
* u8  q2 plot_v1
* u7  p2 plot_v1
* u6  q1 plot_v1
* u5  p1 plot_v1
* u4  q0 plot_v1
* u3  p0 plot_v1
.tran 0.01e-00 50e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(oe_bar)
plot v(q7)
plot v(p7)
plot v(q6)
plot v(p6)
plot v(q5)
plot v(p5)
plot v(q4)
plot v(p4)
plot v(q3)
plot v(p3)
plot v(q2)
plot v(p2)
plot v(q1)
plot v(p1)
plot v(q0)
plot v(p0)
.endc
.end
