* c:\fossee\esim\library\subcircuitlibrary\sn74f521_ic\sn74f521_ic.cir

.include NOT.sub
.include 9_NAND.sub
.include XNOR.sub
x9 net-_u1-pad17_ net-_x8-pad1_ net-_u1-pad20_ net-_u1-pad10_ NOT
x10 net-_u1-pad18_ net-_x10-pad2_ net-_u1-pad20_ net-_u1-pad10_ NOT
x11 net-_u1-pad15_ net-_x1-pad1_ net-_u1-pad20_ net-_u1-pad10_ NOT
x12 net-_u1-pad16_ net-_x1-pad2_ net-_u1-pad20_ net-_u1-pad10_ NOT
x13 net-_u1-pad13_ net-_x13-pad2_ net-_u1-pad20_ net-_u1-pad10_ NOT
x14 net-_u1-pad14_ net-_x14-pad2_ net-_u1-pad20_ net-_u1-pad10_ NOT
x15 net-_u1-pad11_ net-_x15-pad2_ net-_u1-pad20_ net-_u1-pad10_ NOT
x16 net-_u1-pad12_ net-_x16-pad2_ net-_u1-pad20_ net-_u1-pad10_ NOT
x17 net-_u1-pad8_ net-_x17-pad2_ net-_u1-pad20_ net-_u1-pad10_ NOT
x18 net-_u1-pad9_ net-_x18-pad2_ net-_u1-pad20_ net-_u1-pad10_ NOT
x19 net-_u1-pad6_ net-_x19-pad2_ net-_u1-pad20_ net-_u1-pad10_ NOT
x20 net-_u1-pad7_ net-_x20-pad2_ net-_u1-pad20_ net-_u1-pad10_ NOT
x21 net-_u1-pad4_ net-_x21-pad2_ net-_u1-pad20_ net-_u1-pad10_ NOT
x22 net-_u1-pad5_ net-_x22-pad2_ net-_u1-pad20_ net-_u1-pad10_ NOT
x23 net-_u1-pad2_ net-_x23-pad2_ net-_u1-pad20_ net-_u1-pad10_ NOT
x24 net-_u1-pad3_ net-_x24-pad2_ net-_u1-pad20_ net-_u1-pad10_ NOT
x8 net-_x8-pad1_ net-_x10-pad2_ net-_x26-pad1_ net-_u1-pad20_ net-_u1-pad10_ XNOR
x1 net-_x1-pad1_ net-_x1-pad2_ net-_x1-pad3_ net-_u1-pad20_ net-_u1-pad10_ XNOR
x2 net-_x13-pad2_ net-_x14-pad2_ net-_x2-pad3_ net-_u1-pad20_ net-_u1-pad10_ XNOR
x3 net-_x15-pad2_ net-_x16-pad2_ net-_x26-pad4_ net-_u1-pad20_ net-_u1-pad10_ XNOR
x4 net-_x17-pad2_ net-_x18-pad2_ net-_x26-pad5_ net-_u1-pad20_ net-_u1-pad10_ XNOR
x5 net-_x19-pad2_ net-_x20-pad2_ net-_x26-pad6_ net-_u1-pad20_ net-_u1-pad10_ XNOR
x6 net-_x21-pad2_ net-_x22-pad2_ net-_x26-pad7_ net-_u1-pad20_ net-_u1-pad10_ XNOR
x7 net-_x23-pad2_ net-_x24-pad2_ net-_x26-pad8_ net-_u1-pad20_ net-_u1-pad10_ XNOR
x26 net-_x26-pad1_ net-_x1-pad3_ net-_x2-pad3_ net-_x26-pad4_ net-_x26-pad5_ net-_x26-pad6_ net-_x26-pad7_ net-_x26-pad8_ net-_x25-pad2_ net-_u1-pad10_ net-_u1-pad20_ net-_u1-pad19_ 9_NAND
x25 net-_u1-pad1_ net-_x25-pad2_ net-_u1-pad20_ net-_u1-pad10_ NOT
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
