* c:\users\aditya\esim-workspace\sn54hc148\sn54hc148.cir

.include SN54HC148_IC.sub
v2 net-_x1-pad16_ ei  dc 5
r1  ei a2 1000k
r2  ei a1 1000k
r3  eo ei 1000k
r4  gs ei 1000k
r5  a0 ei 1000k
x1 4 5 6 7 ei a2 a1 ei a0 0 1 2 3 gs eo net-_x1-pad16_ SN54HC148_IC
v1  4 ei pulse(0 5 0 1m 1m 5 16)
v3  5 ei pulse(0 5 0 1m 1m 6 16)
v4  6 ei pulse(0 5 0 1m 1m 7 16)
v5  7 ei pulse(0 5 0 1m 1m 8 16)
v6  0 ei pulse(0 5 0 1m 1m 1 16)
v7  1 ei pulse(0 5 0 1m 1m 2 16)
v9  3 ei pulse(0 5 0 1m 1m 4 16)
v8  2 ei pulse(0 5 0 1m 1m 3 16)
* u1  4 plot_v1
* u2  5 plot_v1
* u3  6 plot_v1
* u4  7 plot_v1
* u5  a2 plot_v1
* u6  a1 plot_v1
* u7  a0 plot_v1
* u8  0 plot_v1
* u9  1 plot_v1
* u10  2 plot_v1
* u11  3 plot_v1
.tran 0.01e-00 50e-00 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(4)
plot v(5)
plot v(6)
plot v(7)
plot v(a2)
plot v(a1)
plot v(a0)
plot v(0)
plot v(1)
plot v(2)
plot v(3)
.endc
.end
